US06956053B2
Step b. 3-(Adamantan-1-yloxymethyl)-1-o-tolyl-1H-pyrazole-4-carboxylic acid benzyl ester.
NEt3 (0.2 mL, 1.43 mmol) was added to a mixture of 2-[2-(adamantan-1-yloxy)-acetyl]-3-dimethylamino-acrylic acid benzyl ester (0.539 g, 1.4 mmol), and o-tolylhydrazine hydrochloride (0.222 g, 1.4 mmol) in MeCN (8 mL) at 0° C. The mixture was allowed to warm to room temperature and stirred for 17 h. The precipitated solid was filtered off, washed with MeCN and dried to afford the product, (0.359 g, 56%).

reactant | NEt3 | 1.43 mmol, 0.2 mL | CCN(CC)CC | C6H15N
reactant | 2-[2-(adamantan-1-yloxy)-acetyl]-3-dimethylamino-acrylic acid benzyl ester | 1.4 mmol, 0.539 g | C(C1=CC=CC=C1)OC(C(=CN(C)C)C(COC12CC3CC(CC(C1)C3)C2)=O)=O | C24H31NO4
reactant | o-tolylhydrazine hydrochloride | 1.4 mmol, 0.222 g | Cl.C1(=C(C=CC=C1)NN)C
solvent | MeCN | 8 mL | CC#N | C2H3N
product | 3-(Adamantan-1-yloxymethyl)-1-o-tolyl-1H-pyrazole-4-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C=1C(=NN(C1)C1=C(C=CC=C1)C)COC12CC3CC(CC(C1)C3)C2 | C29H32N2O3
